US06486155B1
7-Benzyloxy-6-methoxy-4-(3,4,5-trimethoxyphenyl)isocoumarin-3-carboxylic acid (5.0 g) and 4-aminomorpholine (6.2 g) are dissolved in 1,3-dimethyl-2-imidazolidinone (20 ml), and the mixture is heated at 100° C. with stirring overnight. To the reaction mixture are added chloroform and water. The chloroform layer is separated, washed, dried, and concentrated under reduced pressure to give 7-benzyloxy-3-carboxy-6-methoxy-2-morpholino-4-(3,4,5-trimethoxyphenyl)-1(2H)isoquinolinone. The product thus obtained is dissolved in dimethylformamide (15 ml), and thereto are added potassium carbonate (2.1 g) and methyl iodide (1.27 ml). The mixture is stirred at room temperature for 30 minutes, and thereto are added ethyl acetate and water. The ethyl acetate layer is separated, washed, dried, and concentrated under reduced pressure. The residue is crystallized from diethyl ether to give 7-benzyloxy-6-methoxy-3-methoxycarbonyl-2-morpholino-4-(3,4,5-trimethoxyphenyl)-1(2H)isoquinolinone (3.4 g) as listed in Table 1.

reactant | 7-Benzyloxy-6-methoxy-4-(3,4,5-trimethoxyphenyl)isocoumarin-3-carboxylic acid | 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(OC(=O)C2=C1)C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC)OC | C27H24O9
reactant | 4-aminomorpholine | 6.2 g | NN1CCOCC1 | C4H10N2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 7-benzyloxy-3-carboxy-6-methoxy-2-morpholino-4-(3,4,5-trimethoxyphenyl)-1(2H)isoquinolinone | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(N(C(C2=C1)=O)N1CCOCC1)C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC)OC | C31H32N2O9
